US06319695B1
A mixture of GTP Na salt (6.0 mg, 10 μmol), Man-1-P K salt (3.5 mg, 10 μmol), Galβ1,3GlcNAc (3.8 mg, 10 μmol), NaF (0.42 mg, 10 μmol), NADPH (9.4 mg, 10 μmol), PEP K salt (4.1 mg, 20 μmol), MgCl2—6H2O (2.6 mg, 10 μmol), MnCl2—4H2O (2 mg, 10 μmol), 2-propanol, (50 μL), ADH (12 U), PK (200 U), PPase (100 U), crude enzyme preparation of GDP-mannose pyrophosphorylase (1.0 mL), and crude enzyme preparation of GDP-Fuc producing enzyme (1.0 mL) in 100 mM tris buffer (pH 7.5) and diluted to 3 mL. α1,3/4-Fucosyltransferase (0.01 U) was added to the mixture and the resulting mixture was stirred under Ar for three days at room temperature. The mixture was filtered and the filtrate was applied to a column of Dowex 1-X8 [OH−) form followed with a column of Dowex 50W-X8 [H+] with water. The fractions were collected and lyophilized. The residual material was purified with a column of Sephadex G-25 (superfine) with water. The appropriate fractions were pooled and lyophilized to give Galβ1,3(Fucα1,4)GlcNAc. Its 1H-NMR spectrum was in good agreement with that reported. [Dumas et al., Biomed. Chem. Lett., 1:425 (1991).]

reactant | Galβ1,3GlcNAc | 10 μmol, 3.8 mg | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)[C@@H]1[C@H](C(O)O[C@@H]([C@H]1O)CO)NC(=O)C | C14H25NO11
reactant | NaF | 10 μmol, 0.42 mg | [F-].[Na+]
reactant | NADPH | 10 μmol, 9.4 mg | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
reactant | GDP-mannose | C1=NC2=C(N1[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)O[C@@H]4[C@H]([C@H]([C@@H]([C@H](O4)CO)O)O)O)O)O)NC(=NC2=O)N | C16H25N5O16P2
reactant | GDP-Fuc | CC1C(C(C(C(O1)OP(=O)(O)OP(=O)(O)OCC2C(C(C(O2)N3C=NC4=C3NC(=NC4=O)N)O)O)O)O)O | C16H25N5O15P2
solvent | 2-propanol | 50 μL | CC(C)O | C3H8O
product | Galβ1,3(Fucα1,4)GlcNAc | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)[C@@H]1[C@H](C(O)O[C@@H]([C@H]1O[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)CO)NC(=O)C | C20H35NO15
